US06987116B2
1,1′-Carbonyldiimidazole (100 mg, 0.61 mmol) is added to a suspension of 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzoic acid (130 mg, 0.28 mmol) in 10 mL of N,N-dimethylformamide. After stirring at 60° C. for 2 hours the reaction mixture is allowed to cool to room temperature and ammonia gas is bubbled through the mixture for 15 minutes. The mixture is stirred at room temperature for an additional 60 minutes and poured into 50 g of ice and stirred for 30 minutes. The mixture is adjusted to pH 4 with concentrated hydrochloric acid and stirred for 60 minutes. The resulting precipitate is collected by filtration washing with water and dried under reduced pressure. The resulting solid is purified by flash column chromatography eluting with a gradient of ethyl acetate to 20% methanol in ethyl acetate to provide 12.3 mg of 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzamide as a gray solid, mp>300° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.40 (s, 1H), 7.48 (s, 1H), 7.78 (s, 1H), 7.82 (d, J=8 Hz, 2H), 7.97 (d, J=8 Hz, 2H), 8.06 (s, 2H), 8.08 (s, 1H), 8.63 (s, 1H), 9.78 (s, 1H); MS 468.9, 471.1 (M+H)+.

reactant | 1,1′-Carbonyldiimidazole | 0.61 mmol, 100 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzoic acid | 0.28 mmol, 130 mg | C(#N)C=1C(=C2C(=NC1)C=C(S2)C2=CC=C(C(=O)O)C=C2)NC2=C(C=C(C(=C2)OC)Cl)Cl | C22H13Cl2N3O3S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzamide | 12.3 mg | C(#N)C=1C(=C2C(=NC1)C=C(S2)C2=CC=C(C(=O)N)C=C2)NC2=C(C=C(C(=C2)OC)Cl)Cl | C22H14Cl2N4O2S
